US07141583B2
4-(4-Amino-2,6-difluorophenyl)-5,6-dihydro-2H-thiopyran
4-(4-Amino-2,6-difluoro-phenyl)-tetrahydro-thiopyran-4-o1 (16.7 g, 68 mM) was suspended in a mixture of concentrated hydrochloric acid (200 ml), water (50 ml) and acetic acid (200 ml), BHT (50 mg) added, and the whole stirred under nitrogen at 800 for 18 hours. After cooling, the mixture was made basic by cautious addition of concentrated ammonia, and ice-water. The mixture was then extracted with diethyl ether (2×300 ml), the extracts washed with water (100 ml), brine (200 ml) and dried (magnesium sulfate). Evaporation gave the desired product as a cream solid (15.2 g).

reactant | 4-(4-Amino-2,6-difluoro-phenyl)-tetrahydro-thiopyran-4-o1 | 68 mM, 16.7 g | NC1=CC(=C(C(=C1)F)C1(CCSCC1)O)F | C11H13F2NOS
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
reactant | ammonia | N | H3N
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Amino-2,6-difluorophenyl)-5,6-dihydro-2H-thiopyran | 15.2 g | NC1=CC(=C(C(=C1)F)C1=CCSCC1)F | C11H11F2NS
